US07601843B2
1-(3-tert-Butyldimethylsiloxy-3-cyclohexylpropyl)-4-(5-methylpyridin-2-yl)aminopiperidine
After adding tert-butyldimethylsilyl chloride (203 mg, 1.5 mmol) to a solution of 1-(3-cyclohexyl-3-hydroxypropyl)-4-(5-methylpyridin-2-yl)aminopiperidine (405 mg, 1.22 mmol), triethylamine (0.20 mL) and 4-dimethylaminopyridine (30 mg, 0.24 mmol) in methylene chloride (5 mL) while cooling on ice, the mixture was stirred at room temperature for 18 hours. Triethylamine (0.20 mL), 4-dimethylaminopyridine (30 mg, 1.5 mmol) and tert-butyldimethylsilyl chloride (203 mg, 1.5 mmol) were further added to the reaction mixture and stirring was continued at room temperature for 70 hours. NH silica Chromatorex DM1020 was added to the reaction mixture, which was then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (60 g NH silica Chromatorex DM2035, hexane:ethyl acetate=4:1) to obtain the title compound as a colorless oil (423 mg) (77.7% yield).

reactant | tert-butyldimethylsilyl chloride | 1.5 mmol, 203 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1-(3-cyclohexyl-3-hydroxypropyl)-4-(5-methylpyridin-2-yl)aminopiperidine | 1.22 mmol, 405 mg | C1(CCCCC1)C(CCN1CCC(CC1)NC1=NC=C(C=C1)C)O | C20H33N3O
reactant | triethylamine | 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | Triethylamine | 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 1.5 mmol, 203 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 0.24 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.5 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(3-tert-Butyldimethylsiloxy-3-cyclohexylpropyl)-4-(5-methylpyridin-2-yl)aminopiperidine | 423 mg, 77.7% yield | O([Si](C)(C)C(C)(C)C)C(CCN1CCC(CC1)NC1=NC=C(C=C1)C)C1CCCCC1 | C26H47N3OSi
